US07696213B2
6-(5-(Aminomethyl)-2-fluorophenyl)-8-cyclopentyl-4-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-7(8H)-one (Compound 104)
To a solution of 8-cyclopentyl-4-methyl-2-(methylamino)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-ylboronic acid (30 mg, 0.099 mmol), 3-bromo-4-fluorobenzylamine hydrochloride (28.7 mg, 0.119 mmol), potassium carbonate (3 M, 0.10 mL) in DME (0.5 mL) and EtOH (0.5 mL) was added tetrakis(triphenylphosphine) palladium(0) (6 mg, 0.005 mmol). The mixture was degassed with N2, sealed and heated for 1 h at 100° C. in microwave. The mixture was removed under reduced pressure. The crude product was purified by chromatography to give the title compound (16.4 mg, 43.3%).

reactant | 8-cyclopentyl-4-methyl-2-(methylamino)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-6-ylboronic acid | 0.099 mmol, 30 mg | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2C)NC)B(O)O)=O | C14H19BN4O3
reactant | 3-bromo-4-fluorobenzylamine hydrochloride | 0.119 mmol, 28.7 mg | Cl.BrC=1C=C(CN)C=CC1F
reactant | potassium carbonate | 3 M, 0.10 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 0.5 mL | COCCOC | C4H10O2
solvent | EtOH | 0.5 mL | CCO | C2H6O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.005 mmol, 6 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-(5-(Aminomethyl)-2-fluorophenyl)-8-cyclopentyl-4-methyl-2-(methylamino)pyrido[2,3-d]pyrimidin-7(8H)-one | 16.4 mg, 43.3% | NCC=1C=CC(=C(C1)C1=CC2=C(N=C(N=C2C)NC)N(C1=O)C1CCCC1)F | C21H24FN5O
